US07863314B2
Preparation of 3-{5-Amino-4-[3-(4H-[1,2,4]triazol-3-yl)-benzoyl]-pyrazol-1-yl}-N-cyclopropyl-4-methyl-benzamide
To a stirred solution of 3-[5-amino-4-(3-carbamoyl-benzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methylbenzamide (120 mg) in DMF (2 mL), was added N,N-dimethylformamide dimethyl acetal (5 ml) and the solution was stirred at 80° C. overnight. The solvent was removed, residue was dissolved in AcOH (5 ml), hydrazine monohydrate (3 ml) was added and the mixture stirred at 90° C. overnight. The solution was acidified with hydrochloric acid to pH - land stirred at 80° C. overnight. The solvent was removed and the residue was resuspended in EtOAc, then washed by aqueous K2CO3 solution, water, and brine, and concentrated. The crude product was purified by column chromatography on silica gel eluted with EtOAc to provide product as a white solid (65 mg, 51%). HPLC (4 minute 10-90 gradient) tR 1.58 min; MS m/z 428.18 [M+H]+.

reactant | 3-[5-amino-4-(3-carbamoyl-benzoyl)-pyrazol-1-yl]-N-cyclopropyl-4-methylbenzamide | 120 mg | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)C(N)=O)=O | C22H21N5O3
reactant | N,N-dimethylformamide dimethyl acetal | 5 ml | COC(N(C)C)OC | C5H13NO2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-{5-Amino-4-[3-(4H-[1,2,4]triazol-3-yl)-benzoyl]-pyrazol-1-yl}-N-cyclopropyl-4-methyl-benzamide | 65 mg, 51% | NC1=C(C=NN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)C1=NN=CN1)=O | C23H21N7O2
